US07396833B2
6-(4-Hydroxytetrahydropyran-4-yl)-1H-indazole-3-carboxylic acid tert-butyl ester (1.0 mmol) was dissolved in trifluoroacetic acid (5 mL), triethylsilane (2 mL), and dichloromethane (3 mL) and the mixture was refluxed for 16 h. The solvent was removed in vacuo and the residue was triturated with ethyl acetate to provide 6-(tetrahydropyran-4-yl)-1H-indazole-3-carboxylic acid (60%) as a tan solid. The acid was coupled with the bicyclobase according to procedure A.

reactant | 6-(4-Hydroxytetrahydropyran-4-yl)-1H-indazole-3-carboxylic acid tert-butyl ester | 1.0 mmol | C(C)(C)(C)OC(=O)C1=NNC2=CC(=CC=C12)C1(CCOCC1)O | C17H22N2O4
reactant | triethylsilane | 2 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 6-(tetrahydropyran-4-yl)-1H-indazole-3-carboxylic acid | 60% | O1CCC(CC1)C1=CC=C2C(=NNC2=C1)C(=O)O | C13H14N2O3
